US03953596
3-(1-Adamantanecarbonyl)-8-Oxa-3-Azabicyclo(3.2.1)Octane ##SPC10##
1-Adamantanecarbonyl chloride (19.87 grams, 0.1 mole, pulverized) (Aldrich Chemical Co., Inc., Milwaukee, Wisc.) was added to a mixture of 8-oxa-3-azabicyclo(3.2.1)octane hydrochloride (14.96 grams, 0.1 mole) and sodium hydroxide (10 grams) in 300 ml water. The reaction mixture was heated at 30° C. for 3 hours and then left overnight at room temperature. The product (22 grams) was filtered off, washed with water, and finally recrystallized from a blend of about 30% petroleum ether (boiling point 30°-60° C.) and 70% diethyl ether (v/v). The product had a melting point of 134°-136° C.

reactant | 1-Adamantanecarbonyl chloride | 0.1 mole, 19.87 grams | C12(CC3CC(CC(C1)C3)C2)C(=O)Cl | C11H15ClO
reactant | 8-oxa-3-azabicyclo(3.2.1)octane hydrochloride | 0.1 mole, 14.96 grams | Cl.C12CNCC(CC1)O2
reactant | sodium hydroxide | 10 grams | [OH-].[Na+]
solvent | water | 300 ml | O | H2O
product | 3-(1-Adamantanecarbonyl)-8-Oxa-3-Azabicyclo(3.2.1)Octane | C12(CC3CC(CC(C1)C3)C2)C(=O)N2CC3CCC(C2)O3 | C17H25NO2
